* Subcircuit switch
.options wnflag=1

*Including sky130 device model
.include "../sky130_fd_pr/models/custom1.spice"

.subckt switch /digital_input /vdd /vin_1 /vin_2 /vout  

* c:\fossee\esim\library\subcircuitlibrary\switch\switch.cir

xm2  net-_m1-pad1_ /digital_input /vdd /vdd sky130_fd_pr__pfet_g5v0d10v5 w=1 l=0.5 
xm5  net-_m3-pad1_ net-_m1-pad1_ /vdd /vdd sky130_fd_pr__pfet_g5v0d10v5 w=1 l=0.5 
xm6  /vout net-_m1-pad1_ /vin_1 /vdd sky130_fd_pr__pfet_g5v0d10v5 w=1 l=0.5 
xm7  /vin_2 net-_m3-pad1_ /vout /vdd sky130_fd_pr__pfet_g5v0d10v5 w=1 l=0.5 
xm1  net-_m1-pad1_ /digital_input gnd gnd sky130_fd_pr__nfet_03v3_nvt w=.42 l=.5 
xm3  net-_m3-pad1_ net-_m1-pad1_ gnd gnd sky130_fd_pr__nfet_03v3_nvt w=.42 l=.5 
xm4  /vout net-_m1-pad1_ /vin_2 gnd sky130_fd_pr__nfet_03v3_nvt w=.42 l=.5 
xm8  /vin_1 net-_m3-pad1_ /vout gnd sky130_fd_pr__nfet_03v3_nvt w=.42 l=.5 
* Control Statements

.ends switch
